### PR TITLE
[Merged by Bors] - chore(Topology/Algebra/Valued/WithVal): remove erws

### PR DESCRIPTION
**Pull request by yuanyi-350**
- turns the multiplicative transport rewrites in both uniform continuity lemmas into plain `rw` chains

Extracted from #38415

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Valued/WithVal.lean [hunk 1]
```diff
@@ -484,8 +484,7 @@ theorem IsEquiv.uniformContinuous_equiv [hval : Valued R Γ₀'] (hv : Valued.v
     ← hy, ← toVal_mul, ← h'.orderRingIso_apply, ← h'.orderRingIso.lt_symm_apply]
   simp only [toVal_mul, orderRingIso_symm_apply, lt_def, ofVal_mul, restrict_lt_iff]
   simp only [equiv_symm_apply, Units.val_mk0, Set.mem_setOf_eq, lt_div_iff₀ hs0'] at hx
-  erw [← map_mul] at hx -- Why erw?
-  rw [restrict_lt_iff] at hx
+  rw [← map_mul, restrict_lt_iff] at hx
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Valued/WithVal.lean]: Can this be merged with the line above?

File: Mathlib/Topology/Algebra/Valued/WithVal.lean [hunk 2]
```diff
@@ -505,7 +504,7 @@ theorem IsEquiv.uniformContinuous_equiv_symm [hval : Valued R Γ₀'] (hv : Valu
   intro x hx
   simp only [equiv_symm_apply, Set.mem_setOf_eq]
   simp only [equiv_apply, Units.val_mk0, Set.mem_setOf_eq] at hx
-  erw [lt_div_iff₀, ← map_mul, restrict_lt_iff, hv, h.lt_iff_lt, map_mul] at hx
+  rw [lt_div_iff₀, ← map_mul, restrict_lt_iff, hv, h.lt_iff_lt, map_mul] at hx
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Valued/WithVal.lean:504]: Idem dito

Comment (yuanyi-350) [reply Mathlib/Topology/Algebra/Valued/WithVal.lean:504]: Merging these `simp only` and `rw` will cause an error.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
